US06809097B1
A mixture of 4-chloro-6-methoxy-7-(2-([1,2,4]-triazol-1-yl)ethoxy)quinoline (132 mg, 0.43 mmol), 4-chloro-2-fluorophenol (400 mg, 2.7 mmol) and potassium hydroxide (28 mg, 0.49 mmol) was head at 165° C. for 3 hours under argon. The mixture was partitioned between ethyl acetate and water. The organic layer was washed with water, brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5). The purified product was dissolved in methylene chloride and 2M ethereal hydrogen chloride (0.5 ml) was added. The volatiles were removed by evaporation and the residue was triturated with ether, collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(2-([1,2,4]-triazol-1-yl)ethoxy)quinoline hydrochloride (110 mg, 61%).

reactant | 4-chloro-6-methoxy-7-(2-([1,2,4]-triazol-1-yl)ethoxy)quinoline | 0.43 mmol, 132 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCN1N=CN=C1 | C14H13ClN4O2
reactant | 4-chloro-2-fluorophenol | 2.7 mmol, 400 mg | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | potassium hydroxide | 0.49 mmol, 28 mg | [OH-].[K+]
product | 4-(4-chloro-2-fluorophenoxy)-6-methoxy-7-(2-([1,2,4]-triazol-1-yl)ethoxy)quinoline hydrochloride | 110 mg, 61% | Cl.ClC1=CC(=C(OC2=CC=NC3=CC(=C(C=C23)OC)OCCN2N=CN=C2)C=C1)F | InChI=1S/C20H16ClFN4O3.ClH/c1-27-19-9-14-16(10-20(19)28-7-6-26-12-23-11-25-26)24-5-4-17(14)29-18-3-2-13(21)8-15(18)22;/h2-5,8-12H,6-7H2,1H3;1H
